US04188341
26.1 g (0.168 mole) of N-(3-pent-2-enyl)-morpholine is slowly added dropwise to a solution, cooled to 0°, of 16.8 g (0.3 mole) of freshly distilled acrolein in 150 ml of dioxane, with the temperature rising to 5° C. After completion of the addition, stirring is maintained for half an hour with ice-cooling, and the mixture is then allowed to stand overnight. The solvent is afterwards evaporated off and the oil obtained as residue is dissolved in 120 ml of 20% aqueous hydrochloric acid. On stirring of the acidified solution at room temperature, there precipitates an oil which, after one to two days' stirring, is taken up in ether. The aqueous phase is extracted a further five times with ether. The combined ether phases are dried over magnesium sulphate and the ether is distilled off. There is obtained 18.5 g of crude 2,6-dimethyl-cyclohex-2-en-1-one in the form of oil, which yields, after distillation in a water-jet vacuum, 15.0 g of 2,6-dimethyl-cyclohex-2-en-1-one (72% of theory); b.p. 62°-63° C./ 10 Torr.

reactant | N-(3-pent-2-enyl)-morpholine | 0.168 mole, 26.1 g | CC=C(CC)N1CCOCC1 | C9H17NO
reactant | acrolein | C(=O)C=C | C3H4O
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
solvent | hydrochloric acid | 120 ml | Cl | ClH
product | 2,6-dimethyl-cyclohex-2-en-1-one | 18.5 g | CC=1C(C(CCC1)C)=O | C8H12O
